US09315506B2
To a solution of 11.4 g 4-amino-2-nitro-benzoic acid in 228 ml of water containing 6.63 g of sodium carbonate were added 17.0 g of 9-fluorenylmethyl-chloroformate and dropwise 20 ml of dioxane. After stirring for 20 hours under nitrogen, the mixture was filtered and the filtrate was washed five times with methyl-tert.-butylether. Residual methyl-tert.-butylether was removed from the aqueous phase by evaporation under vacuum. To the aqueous phase were added 456 g of 0° C. cold water. The mixture was adjusted to pH=3 by addition of 31 ml of 2M aqueous hydrochloric acid. The precipitate was sucked off, washed with 513 ml of water, dried at 40° C. in vacuum to give 17.0 g of 4-(((9H-fluorene-9-yl)methoxy)carbonylamino)-2-nitrobenzoic acid as off-white crystals.

reactant | 4-amino-2-nitro-benzoic acid | 11.4 g | NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethyl-chloroformate | 17.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 228 ml, 6.63 g | O | H2O
product | 4-(((9H-fluorene-9-yl)methoxy)carbonylamino)-2-nitrobenzoic acid | 17.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C22H16N2O6
